US04472433
A mixture of 2-oxo-5-chloro-7-(2-chlorophenoxy)indoline (2.0 g.), sodium hydroxide (0.50 g.), dioxane (20 ml.) and water (30 ml.) was refluxed under heating for 23 hours. The reaction mixture was evaporated under reduced pressure and the residue was dissolved in water and filtered. The filtrate was washed with diethyl ether, and diethyl ether was added to the aqueous layer and adjusted to pH 5 with 1N-sulfuric acid. The diethyl ether layer was separated, washed with water, dried over magnesium sulfate and then evaporated. The residue was recrystallized from ethanol to give crystals of 2-[2-amino-3-(2-chlorophenoxy)-5-chlorophenyl]acetic acid (0.725 g.).

reactant | 2-oxo-5-chloro-7-(2-chlorophenoxy)indoline | 2.0 g | O=C1NC2=C(C=C(C=C2C1)Cl)OC1=C(C=CC=C1)Cl | C14H9Cl2NO2
reactant | sodium hydroxide | 0.50 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 2-[2-amino-3-(2-chlorophenoxy)-5-chlorophenyl]acetic acid | 0.725 g | NC1=C(C=C(C=C1OC1=C(C=CC=C1)Cl)Cl)CC(=O)O | C14H11Cl2NO3
